* SpiceNetList
* 
* Exported from untitled.sch at 4.03.2023 21:01
* 
* EAGLE Version 9.6.2 Copyright (c) 1988-2020 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
R_R2 VQ VIN 3.3K 
C_C1 N_6 N_7 1.5N 
R_R5 0 N_6 4.7K 
R_R6 0 N_7 4.7K 
Q_Q1 VQ N_2 N_6 QNPN 
V_V1 VIN 0 6V 
R_R3 VOUT VIN 1.5K 
R_R4 0 N_2 10K 
Q_Q2 VOUT VQ N_7 QNPN 
R_R1 N_2 VIN 10K 

* --------- models ---------

* (model found in library)

**********************
* Autodesk EAGLE - Spice Model File
* Date: 9/17/17
* basic npn intrinsic model
**********************
.MODEL QNPN NPN


* --------- simulation ---------


.control
set filetype=ascii
TRAN 2.00011e-8 0.02002 0.02 2.00011e-8 
write untitled.sch.sim V(VIN) V(VQ) V(VOUT) I(V_V1)
.endc

.END










